US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole (100 mg, 0.312 mmol), pyridine-3-boronic acid 1,3-propanediol cyclic ester (102 mg, 0.624 mmol), and tetrakis(triphenylphosphine)palladium(0) (Pd(PPh3)4, 35.8 mg, 0.031 mmol), in a solution of ethylene glycol dimethyl ether (3 mL) and 2M sodium carbonate (3 mL) was heated in a sealed vial at 100° C. for 1 hour. The reaction was cooled, diluted with chloroform, washed with water and saturated brine, filtered, and concentrated. Silica gel chromatography using a gradient of 50% ethyl acetate in hexane to 100% ethyl acetate afforded 19 mg (19%) 3-(2-pyridyl)-5-(3-fluoro-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole: 1H-NMR (CDCl3), δ (ppm): 8.92 (s, 1H), 8.84 (d, 1H), 8.70 (d, 1H), 8.39 (s, 1H), 8.25 (d, 1H), 8.00 (m, 2H), 7.90 (td, 1H), 7.65 (m, 1H), 7.55 (m, 2H).

reactant | 3-(2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole | 0.312 mmol, 100 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)F)Br | C13H7BrFN3O
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.624 mmol, 102 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.031 mmol, 35.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-pyridyl)-5-(3-fluoro-5-(3-pyridyl)phenyl)-1,2,4-oxadiazole | 19 mg, 19% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C=1C=NC=CC1)F | C18H11FN4O
